US07820673B2
2a) 4-benzyl-N-((1E)-(2-methyl-1H-imidazol-4-yl)methylene)-1-piperazinamine
4-Benzyl-1-piperazinamine (K. L. Rinehart Jr et al. Bioorg. Chem., 6, 341 (1977); 10 g) and 2-methylimidazole-4-carbaldehyde (5.8 g) were suspended in methanol (200 ml), and the reaction mixture was heated under reflux for 3 hours. The reaction solution was cooled to room temperature, and then the solvent was distilled off under reduced pressure. To the residue was added diethyl ether, and the deposited precipitate was collected by filtration to obtain the title compound as a pale brown solid (13 g, 90%).

reactant | 4-Benzyl-1-piperazinamine | 10 g | C(C1=CC=CC=C1)N1CCN(CC1)N | C11H17N3
reactant | 2-methylimidazole-4-carbaldehyde | 5.8 g | CC=1NC=C(N1)C=O | C5H6N2O
solvent | methanol | 200 ml | CO | CH4O
product | 4-benzyl-N-((1E)-(2-methyl-1H-imidazol-4-yl)methylene)-1-piperazinamine | 13 g, 90% | C(C1=CC=CC=C1)N1CCN(CC1)/N=C/C=1N=C(NC1)C | C16H21N5
